US06444668B1
To a mixture of N, O-dimethylhydroxylamine hydrochloride (9.42 g, 96 mmol) and triethyl amine (13.5 mL, 96 mmol) in ethanol and water (100 mL/10 mL) was added a solution of 5-bromoisatoic anhydride (20 g, 74 mmol) in ethanol and water (100 mL/10 mL) at ambient temperature under nitrogen. The reaction mixture was heated at reflux for 3 hours. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate (100 mL), washed with 1N aqueous sodium hydroxide solution (2×20 mL), brine (30 mL), and dried with MgSO4. After removal of solvent, the residue was purified by a silica gel flash chromatography (hexane:ethyl acetate/3:2) to give 2-amino-5-bromo-N-methoxy-N-methylbenzamide as an off-white solid (13 g, 68%): mp 80-81° C.; 1H-NMR (CDCl3) δ7.49 (d, 1H, J=2.1 Hz), 7.26 (dd, 1H, J=8.3, 2.0 Hz), 6.59 (d, 1H, J=8.4 Hz), 4.69 (br, 2H), 3.58 (s, 3H), 3.34 (s, 3H), Anal. Calc. For C9H11BrN2O2: C, 41.72, H, 4.28, N, 10.81. Found: C, 41.99, H, 4.16, N, 10.82.

reactant | triethyl amine | 96 mmol, 13.5 mL | C(C)N(CC)CC | C6H15N
reactant | 5-bromoisatoic anhydride | 74 mmol, 20 g | BrC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4BrNO3
reactant | ethanol | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 2-amino-5-bromo-N-methoxy-N-methylbenzamide | 13 g, 68% | NC1=C(C(=O)N(C)OC)C=C(C=C1)Br | C9H11BrN2O2
